US08022062B2
6-Methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride:
Dissolve crude 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (35.1 g, 0.198 mol) in 2B-3 ethanol (250 mL), heat the solution to reflux and add 2M HCl in ethanol (108.9 mL, 0.218 mol, 1.1 equiv.). Slowly add heptane (700 mL) over 10 min, then remove the heating mantle and cool the solution to ambient temperature, and finally continue the cooling with an ice/water mixture. Collect the resulting solid by vacuum filtration and wash with cold ethanol:heptane (1:2) (3×100 mL), air-dry for 15 min under vacuum, then further dry the product in a vacuum oven at 60° C. for 1 h to give the desired intermediate as a white granular solid (35.53 g, 63%): mp 246.6-246.9° C.; 1H NMR (300 MHz, DMSO-d6), δ 9.82 (broad s, 1H), 7.12 (dd, 1H, J=7.6, 7.9), 6.88 (d, 1H J=8.2), 6.78 (d, 1H, J=7.3), 3.75 (s, 3H), 3.20-3.00 (m, 8H); 13C NMR (300 MHz, DMSO-d6), δ 156.2, 141.3, 127.4, 127.2, 121.6, 109.7, 55.7, 44.9, 44.7, 31.6, 21.7; MS (ES+) m/z 178 (M+H)+; Anal. Calc'd for C11H15ClNO: C, 62.12; H, 7.11; N, 6.59. Found: C, 61.95; H, 7.64; N, 6.58.

reactant | 6-methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.198 mol, 35.1 g | COC1=CC=CC=2CCNCCC21 | C11H15NO
reactant | HCl | 2M | Cl | ClH
reactant | heptane | 700 mL | CCCCCCC | C7H16
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | ethanol | 0.218 mol, 108.9 mL, 1.1 equiv. | C(C)O | C2H6O
product | 6-Methoxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | 35.53 g, 63% | Cl.COC1=CC=CC=2CCNCCC21 | InChI=1S/C11H15NO.ClH/c1-13-11-4-2-3-9-5-7-12-8-6-10(9)11;/h2-4,12H,5-8H2,1H3;1H
